US07220824B1
II.3b: Ethyl 3-{2-[(3-(amino)benzoyl)amino]acetamido}-3-phenyl-propanoate
A solution of ethyl 3-{2-[(3-(nitro)benzoyl)amino]acetamido}-3-phenyl-propanoate from II.3a (2.7 g) in 100 ml of ethanol was treated with Tin(II) chloride (7.6 g) and heated under reflux for 3 h. The reaction mixture was then added to ice, rendered neutral with NaHCO3 solution and filtered through Celite. The filtrate was extracted with methylene chloride, dried (MgSO4) and concentrated. Chromatographic purification (purification (methylene chloride/methanol (5:1)) yielded the product (yield: 2.0 g).

reactant | ethyl 3-{2-[(3-(nitro)benzoyl)amino]acetamido}-3-phenyl-propanoate | [N+](=O)([O-])C=1C=C(C(=O)NCC(=O)NC(CC(=O)OCC)C2=CC=CC=C2)C=CC1 | C20H21N3O6
reactant | Tin(II) chloride | 7.6 g | [Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 3-{2-[(3-(amino)benzoyl)amino]acetamido}-3-phenyl-propanoate | yield: 2.0 g | NC=1C=C(C(=O)NCC(=O)NC(CC(=O)OCC)C2=CC=CC=C2)C=CC1 | C20H23N3O4
